data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5970,"COC(=O)C1(C)CCCC2(C)C3C[CH+:1]C4(C)CCC3(CCC12)C4.O=C[O-].[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2404,"C=CC1(C)CC[C:1]([C:2]2([OH:3])CCC3C(C)(C)CCC[C:4]32C)=[O+:5]1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 2);((2, 4), 1);((1, 5), 5)"
train,pmechdb_split_0,0,8291,"CC(C)CCCC(C)C1CCC2C3CCC4CC([OH:1])CCC4(C)C3CCC12C.CCCCCCCCCCCCOC1=CC=C(C(=O)[O-])C=C1.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,3211,"CC(=O)[O-].CCOC(=O)C1=CN(C2CC2)C2=C(C=C(F)C(N3CC[N:1]([CH:2](C4=CC5=C(C=C4)C(C)(C)N(OC)C5(C)C)[OH2+:3])CC3)=C2)C1=O.CO|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1762,"CS(=O)(=O)[O-:1].C[Si:2](C)(C)I|(1, 2)"
train,pmechdb_split_0,0,4499,"CCC(C)I.CCCCCCC#CC=CCCC[O-:1].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,7111,"C[Si:1](C)(C)Cl.OCC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,2862,"N#CC1=CC=CC(OCCC[O:1][H:2])=C1.O=[N+]([O-])C1=NN(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=N1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1032,"C1=CC=[C:1]([Li:2])C=C1.CCCC[O-].[Li][O+:3]=[C:4](CC(C)C)C1=CC=CC=C1|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7042,"C=C(C)C1CCC2([C:1](N3CCN(C4=CC=C(F)C=C4)CC3)([O-:2])[Cl:3])CCC3(C)C(CCC4C5(C)CCC(=O)C(C)(C)C5CCC43C)C12.CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5269,"COC1=CC=C(COC(=O)C(CCO)NC(=O)C(C)[NH2:1])C=C1.O=C1CCC(=O)N1O[C:2](OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5962,"BrC[CH:1]=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5945,"CC1=C[C:1](N=NC2=CC=CC=C2)([H:2])[C+:3](O)C=C1.[Cl-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1114,"CC[O+:1]=[C:2](C)C.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1883,"CO[CH:1]=[OH+:2].C[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6725,"C[N+:1](C)(C)[CH2:2][CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7817,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=CC(S(=O)(=O)O)=C2)C=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,151,"C=CCCC(CCCCC(=O)[O-])C(=O)[O:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8617,"O=S(=O)(O)[O-:1].OCC1C(O)C(O)C(O)C(O)[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6750,"CC(=O)O.CCOC(=O)C(C[C:1](C1=CC=CC=C1)=[O:2])=C(C)[NH2:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1836,"CCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C3CCCCC3)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,54,"CC(N)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6864,"CC(=O)NC1C=CC([O+:1](I2(OC(C)=O)(OC(C)=O)OC(=O)C3=C2C=CC=C3)[H:2])CC1NC(=O)OC(C)(C)C.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1110,"CC(C)(C)O.CCCCCC[C:1]([N+]1=CC=C(N(C)C)C=C1)([O-:2])[O:3]C(C)=O.CCN(CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3304,"NC1=[C-:1]C=NC=C1.[H:2][NH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4598,"CC(CCC(O)(O)[O+:1](C)[H:2])C1CCC2C3C(O)CC4CC(O)CCC4(C)C3CCC12C.CC1=CC=C(S(=O)(=O)[O-])C=C1.C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1219,"CC1C(CCCO)[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8601,"C[C-:1](N=CC1=CC=C([N+](=O)[O-])C=C1)C(F)(F)F.O.O=C[CH:2]=[CH:3]C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2087,"[CH:1](=[OH+:2])[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6858,"CC(=O)O.CC(=O)[O-:1].COC1=CC=C(Br)C(C(=O)N2CCC3=CC4=C(C=C3[C:2]([H:3])([O:4][I+:5]3(OC(C)=O)OC(=O)C5=C3C=CC=C5)CC2)OCO4)=C1OC|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4098,"OCC[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8074,"N#[C:1][H:2].N=C(N)NC=CC#[N:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2769,"C1CCC[C-:1]2OC2CC1.CCNCC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,8911,"CC[O+:1](CC=C(N)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7643,"CC(=O)[O-].C[CH:1]([N:2](C)C1=CC=CC=C1)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,442,"CCCC[N+](CCCC)(CCCC)CCCC.C[Si-](C)(C)(F)C[C:1]#[C:2]CC(C[CH:3]=[O:4])C1=CC=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4773,"C=[C:1](C)[Mg:2][Br].C[CH:3]=[N:4]C|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2372,"CCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CC(C)C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7993,"CCOC(=O)[CH:1]=[C:2](OCC)[O-:3].CCO[C:4](=[O:5])[C:6]#[C:7]C1=CC=CC=C1.CO.C[OH+][Na]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1011,"CC(=O)O[Si-](C)(C)(C)[O+:1]=[C:2](C)[O:3][H:4].C[OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1260,"C1CC[NH:1]CC1.CC(=O)[O-].CCOC(=O)C(=CCC(C)CC)C(C)=[O+:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1222,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCC1=C(C2CCCCC2)C=C([S+:1]2C[CH:2]2C)C=C1.CCCO.CC[NH:3]CC(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1413,"CC(C(C)Br)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
